US07449467B2
1-[6-Methyl-4-(trifluoromethyl)pyridin-2-yl]piperazine
A solution of 2-chloro-6-methyl-4-(trifluoromethyl)pyridine (1.0 g, 5.11 mmol), piperazine (1.32 g, 15.3 mmol), and triethylamine (0.71 mL, 5.1 mmol) were mixed in 1,4-dioxane (10 mL). After stirring at 100° C. for 5 h, the reaction solution was diluted with water and extracted with ethyl acetate three times, dried with sodium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by flash column chromatography (10% MeOH/5% Et3N/EtOAc) to yield the desired product (880 mg, 70.2%). LCMS calculated for C11H15F3N3: (M+1) 246.1; found 246.1.

reactant | 2-chloro-6-methyl-4-(trifluoromethyl)pyridine | 5.11 mmol, 1.0 g | ClC1=NC(=CC(=C1)C(F)(F)F)C | C7H5ClF3N
reactant | piperazine | 15.3 mmol, 1.32 g | N1CCNCC1 | C4H10N2
reactant | triethylamine | 5.1 mmol, 0.71 mL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 1-[6-Methyl-4-(trifluoromethyl)pyridin-2-yl]piperazine | 880 mg, 70.2% | CC1=CC(=CC(=N1)N1CCNCC1)C(F)(F)F | C11H14F3N3
